US08703447B2
(1) Construction of Nalidixic Acid Resistant Mutant Strain
85 mutant strains obtained above were inoculated in a 8 ml LB medium containing 50 μg/ml ampicillin in a large test tube, and cultured at 30° C. for 17 hr. The culture medium was inoculated at 1% in a 8 ml medium containing 100 μg/ml ampicillin [16 g/L dipotassium hydrogen phosphate, 14 g/L potassium dihydrogen phosphate, 5 g/L ammonium sulfate, 1 g/L citric acid (anhydrous), 5 g/L casamino acid (manufactured by Difco), 10 g/L glucose, 10 mg/L vitamin B1, 25 mg/L magnesium sulfate heptahydrate, 50 mg/L iron sulfate heptahydrate, 100 mg/L L-proline, adjusted with 10 mol/L sodium hydroxide to pH 7.2, and glucose, vitamin B1, magnesium sulfate heptahydrate and iron sulfate heptahydrate were separately autoclaved and added] in a test tube, and cultured at 30° C. for 24 hr. The culture medium was centrifuged and a culture supernatant was obtained. The accumulated amounts of L-glutamine and L-glutamic acid in the culture supernatant were quantified by high performance liquid chromatography (HPLC), and productivity of L-glutamine and L-glutamic acid was evaluated.

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | dipotassium hydrogen phosphate | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | vitamin B1 | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl.[Cl-]
reactant | magnesium sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Mg+2]
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 10 mol/L | [OH-].[Na+]
reactant | L-glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | L-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
catalyst | iron sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | Nalidixic Acid | CCN1C=C(C(=O)C2=C1N=C(C=C2)C)C(=O)O | C12H12N2O3
